US04620938
A mixture of 30 g of trans-1-p-hydroxyphenyl-4-(trans-4-propylcyclohexyl)-cyclohexane, 6.9 g of K2CO3, 25 g of hexyl iodide and 250 ml of DMF is heated to 80° for 16 hours, while stirring, and is then cooled and worked up in the customary manner. Trans-1-p-hexoxyphenyl-4-(trans-4-propylcyclohexyl)-cyclohexane is obtained.

reactant | trans-1-p-hydroxyphenyl-4-(trans-4-propylcyclohexyl)-cyclohexane | 30 g | OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C21H32O
reactant | K2CO3 | 6.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hexyl iodide | 25 g | C(CCCCC)I | C6H13I
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | Trans-1-p-hexoxyphenyl-4-(trans-4-propylcyclohexyl)-cyclohexane | C(CCCCC)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC | C27H44O
